US08497264B2
In a microwave vial, 2-fluoropyridin-3-ylboronic acid (0.048 g, 0.338 mmol), (S)-5-(tert-butoxycarbonylamino)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (0.166 g, 0.270 mmol), and Pd(PPh3)4 (0.031 g, 0.027 mmol) were suspended in DMF (3 mL). Aqueous sodium carbonate (1 M, 0.810 mL, 0.810 mmol) was added. Argon was blown through the vessel, which was sealed and heated in an 85° C. oil bath for 2.5 h. The reaction was cooled and concentrated. The residue was taken up in water (15 mL) and the aqueous phase was extracted with 3% MeOH-DCM (3×25 mL). The organics were combined, washed with dilute brine (7 mL), dried over sodium sulfate and concentrated. The residue was transferred to a microwave vial in DCM (3 mL), and TFA (0.520 mL, 6.75 mmol) was added. The vial was sealed and heated in a 65° C. oil bath for 1.5 h. The mixture was cooled and concentrated, and the residue was neutralized with 0.5 M aqueous Na2CO3 (15 mL) and the aqueous phase was extracted with 5% MeOH-DCM (3×25 mL). The organics were combined, washed with dilute brine (7 mL), dried over sodium sulfate and concentrated. The residue was purified through silica gel (50 mL) using 8% MeOH-DCM to afford 72 mg of (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine. m/z=462.0[M+H]+.

reactant | 2-fluoropyridin-3-ylboronic acid | 0.338 mmol, 0.048 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | (S)-5-(tert-butoxycarbonylamino)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.270 mmol, 0.166 g | FC(S(=O)(=O)OC1=CC=C2OC=3C(=CC(=CC3[C@@]3(C2=C1)COCC(=N3)NC(=O)OC(C)(C)C)C=3CCOCC3)F)(F)F | C27H26F4N2O8S
reactant | sodium carbonate | 0.810 mmol, 1 M, 0.810 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | TFA | 6.75 mmol, 0.520 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.027 mmol, 0.031 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 72 mg | O1CCC(=CC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C(=NC=CC1)F)COCC(=N3)N | C26H21F2N3O3
